US05112966
(3S,4S)-4-(1-Hydroxy-1-methylethyl)-3-(1-(R)-hydroxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (26 g) and 4-dimethylaminopyridine (16 g) were dissolved in dry dichloromethane (200 ml). Benzyl chloroformate (20 g) was added dropwise thereto over a period of 1 hour with ice-cooling, and the resultant mixture was stirred for 2 hours and warmed to room temperature, followed by stirring at the same temperature as above for 10 hours. 5% Hydrochloric acid (100 ml) was poured into the reaction mixture with ice-cooling, and the resulting mixture was stirred for 0.5 hour and allowed to stand. The organic layer was washed successively with water, a saturated sodium bicarbonate solution and brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-hydroxy-1-methylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone.

reactant | (3S,4S)-4-(1-Hydroxy-1-methylethyl)-3-(1-(R)-hydroxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 26 g | OC(C)(C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)O | C25H33NO5
reactant | Benzyl chloroformate | 20 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Hydrochloric acid | 100 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 16 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (3S,4S)-4-(1-hydroxy-1-methylethyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | OC(C)(C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H39NO7
